US08217176B2
A solution of the obtained N-(2-chloroethyl)-3-methoxy-N-methyl-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]quinoline-2-carboxamide (200 mg, 0.43 mmol), N-ethylaminoethanol (228 mg, 2.55 mmol), diisopropylethylamine (330 mg, 2.55 mmol) and sodium iodide (64 mg, 0.43 mmol) in 1-butanol (5 mL) was stirred at 110° C. for 18 hr. The reaction mixture was diluted with saturated sodium hydrogen carbonate solution, and extracted twice with ethyl acetate. The extract was combined, washed with brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by aminosilica gel chromatography (eluate; ethyl acetate to ethyl acetate/methanol=20/1) to give N-{2-[ethyl(2-hydroxyethyl)amino]ethyl}-3-methoxy-N-methyl-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]quinoline-2-carboxamide (0.08 g) as a white non-crystalline solid.

reactant | N-(2-chloroethyl)-3-methoxy-N-methyl-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]quinoline-2-carboxamide | 0.43 mmol, 200 mg | ClCCN(C(=O)C1=C(C=2C(N(C=3C=CC=CC3C2S1)CC(C1=CC=CC=C1)=O)=O)OC)C | C24H21ClN2O4S
reactant | N-ethylaminoethanol | 2.55 mmol, 228 mg | C(C)NC(C)O | C4H11NO
reactant | diisopropylethylamine | 2.55 mmol, 330 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | sodium iodide | 0.43 mmol, 64 mg | [I-].[Na+]
solvent | 1-butanol | 5 mL | C(CCC)O | C4H10O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-{2-[ethyl(2-hydroxyethyl)amino]ethyl}-3-methoxy-N-methyl-4-oxo-5-(2-oxo-2-phenylethyl)-4,5-dihydrothieno[3,2-c]quinoline-2-carboxamide | 0.08 g | C(C)N(CCN(C(=O)C1=C(C=2C(N(C=3C=CC=CC3C2S1)CC(C1=CC=CC=C1)=O)=O)OC)C)CCO | C28H31N3O5S
